US05624935
Ethyl 2-azido-3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)propionate
A procedure similar to that described in Preparation 49 was repeated, except that 3.90 g of ethyl 2-azido-3-(2-chloropyridin-3-yl)-3-hydroxypropionate (prepared as described in Preparation 76), 8.6 g of t-butyldimethylsilyl chloride, 10 g of imidazole and 80 ml of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 8:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 5.6 g of the title compound having Rf=0.31 (on silica gel thin layer chromatography using a 3:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | ethyl 2-azido-3-(2-chloropyridin-3-yl)-3-hydroxypropionate | 3.90 g | N(=[N+]=[N-])C(C(=O)OCC)C(O)C=1C(=NC=CC1)Cl | C10H11ClN4O3
reactant | t-butyldimethylsilyl chloride | 8.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-azido-3-t-butyldimethylsilyloxy-3-(2-chloropyridin-3-yl)propionate | N(=[N+]=[N-])C(C(=O)OCC)C(C=1C(=NC=CC1)Cl)O[Si](C)(C)C(C)(C)C | C16H25ClN4O3Si
